simulator lang=spectre
subckt bjt_diff_mirror_buf_bp VIN VREF VDD GND VOUT
CIN (VIN BIN) capacitor c=2.2e-07
RBIN (BIN VREF) resistor r=68000.0
RREF (BREF VREF) resistor r=68000.0
XQINP (NLEFT BIN TAIL GND) npn_05v5_W1p00L1p00 mult=2
XQINN (NRIGHT BREF TAIL GND) npn_05v5_W1p00L1p00 mult=2
RTAIL (TAIL GND) resistor r=6800.0
XQPL (NLEFT NLEFT VDD VDD) pnp_05v5_W0p68L0p68 mult=2
XQPR (NRIGHT NLEFT VDD VDD) pnp_05v5_W0p68L0p68 mult=2
RDC (NRIGHT VREF) resistor r=1000000.0
CDOM (NRIGHT BIN) capacitor c=1.5e-11
XQBUF (VDD NRIGHT VOUT GND) npn_05v5_W1p00L1p00 mult=4
ROUT (VOUT GND) resistor r=12000.0
COUT (VOUT GND) capacitor c=8e-11
ends bjt_diff_mirror_buf_bp
