simulator lang=spectre
subckt bjt_ac_ce VIN VREF VDD GND VOUT
CIN (VIN NB) capacitor c=4.7e-06
RB (NB VREF) resistor r=15000.0
XQ1 (VOUT NB NE GND) npn_05v5_W1p00L1p00 mult=2
RC (VDD VOUT) resistor r=3300.0
RE (NE GND) resistor r=2200.0
CE (NE GND) capacitor c=0.0001
COUT (VOUT GND) capacitor c=2.2e-09
ends bjt_ac_ce

