simulator lang=spectre
subckt bjt_ac_ce VIN VREF VDD GND VOUT
CIN (VIN NB) capacitor c=1.5273177436473295e-05
RB (NB VREF) resistor r=49224.81542592478
XQ1 (VOUT NB NE GND) npn_05v5_W1p00L1p00 mult=4
RC (VDD VOUT) resistor r=8515.424010265064
RE (NE GND) resistor r=1798.6812618293077
CE (NE GND) capacitor c=0.00010782354314062338
COUT (VOUT GND) capacitor c=4.472745062404709e-09
ends bjt_ac_ce

