simulator lang=spectre
subckt bjt_ac_ce VIN VREF VDD GND VOUT
CIN (VIN NB) capacitor c=1.294319956831839e-06
RB (NB VREF) resistor r=14174.422512066285
XQ1 (VOUT NB NE GND) npn_05v5_W1p00L1p00 mult=3
RC (VDD VOUT) resistor r=1885.6278574770806
RE (NE GND) resistor r=3259.431644752438
CE (NE GND) capacitor c=8.792294552686402e-05
COUT (VOUT GND) capacitor c=5.741475144331582e-10
ends bjt_ac_ce

